US06660753B2
A mixture of 4-bromo-1-trityl-1H-imidazole (0.2g, 0.51 mmol), 3-cyanophenylboronic acid (0.11 g, 0.77 mmol), and Pd(PPh3)4 (0.06g, 0.05 mmol) in a solution of ethylene glycol dimethyl ether (2 mL) and 2M sodium carbonate (2 mL) was heated in a sealed vial overnight at 120° C. After cooling, the reaction mixture was diluted with dichloromethane (30 mL) and washed with water (50 mL) and brine (30 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel chromatography of the crude residue using 2% ethyl acetate in hexanes afforded 0.07 g (34%) 4-(3-cyanophenyl)-1-trityl-1H-imidazole as white foam.

reactant | 4-bromo-1-trityl-1H-imidazole | 0.51 mmol, 0.2g | BrC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17BrN2
reactant | 3-cyanophenylboronic acid | 0.77 mmol, 0.11 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | ethylene glycol dimethyl ether | 2 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.05 mmol, 0.06g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-cyanophenyl)-1-trityl-1H-imidazole | 0.07 g, 34% | C(#N)C=1C=C(C=CC1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H21N3
